US06441017B1
Step F: 1-(4-Cyano-3-fluorobenzyl)-5-(hydroxymethyl)imidazole
To a solution of 5-(acetoxymethyl)-1-(4-cyano-3-fluorobenzyl) imidazole, as described above in Step E, (19.8 g, 72.5 mmol) in 5:1 THF/water (430 mL) at ambient temperature was added lithium hydroxide monohydrate (3.33 g, 79.4 mmol). After 4 hours, the solution was adjusted to pH 7 with 1.0 N hydrochloric acid and concentrated in vacuo. The residue was concentrated from toluene in vacuo (3×100 mL) to give the titled product as a pale solid.

reactant | 5-(acetoxymethyl)-1-(4-cyano-3-fluorobenzyl) imidazole | C(C)(=O)OCC1=CN=CN1CC1=CC(=C(C=C1)C#N)F | C14H12FN3O2
reactant | lithium hydroxide monohydrate | 79.4 mmol, 3.33 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.0 N | Cl | ClH
solvent | THF water | 430 mL | C1CCOC1.O
product | 1-(4-Cyano-3-fluorobenzyl)-5-(hydroxymethyl)imidazole | C(#N)C1=C(C=C(CN2C=NC=C2CO)C=C1)F | C12H10FN3O
